US05304531
2-Chloro-4-trifluoromethylphenol (1.96 grams; 0.010 mole) is dissolved in dimethyl sulfoxide (15 ml.) and potassium carbonate (2.76 grams; 0.020 mole) is added. The reaction mixture is stirred at room temperature overnight to afford potassium 2-chloro-4-trifluoromethylphenoxide.

reactant | 2-Chloro-4-trifluoromethylphenol | 0.010 mole, 1.96 grams | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
reactant | potassium carbonate | 0.020 mole, 2.76 grams | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | potassium 2-chloro-4-trifluoromethylphenoxide | ClC1=C([O-])C=CC(=C1)C(F)(F)F.[K+] | InChI=1S/C7H4ClF3O.K/c8-5-3-4(7(9,10)11)1-2-6(5)12;/h1-3,12H;/q;+1/p-1
